US08957203B2
To a solution of (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid (2.0 g, 8.6 mmole) and 1-chloro-4-methoxyisoquinoline (2.0 g, 10.3 mmole) in DMSO (15 mL) was added t-BuOK (1 M solution in THF, 25.9 mL) at room temperature under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 2 h. The reaction mass was quenched with aqueous citric acid solution and extracted with ethyl acetate (50 mL×3). The combined organics were washed with water, brine solution, dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography (55% ethyl acetate in pet-ether) to get 2.4 g (71.4%) of (2S,4R)-1-(tert-butoxycarbonyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid as gummy liquid. 1H NMR (400 MHz, CD3OD): δ ppm 8.13-8.12 (m, 2H), 7.76-7.72 (m, 1H), 7.60-7.64 (m, 1H), 7.53 (s, 1H), 5.70 (sb, 1H), 4.50-4.52 (m, 1H), 4.08 (s, 3H), 3.80-3.90 (m, 2H), 2.71-2.68 (m, 1H), 2.46-2.40 (m, 1H), 1.48 (s, 9H); MS: MS m/z 389.8 (M++1).

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid | 8.6 mmole, 2.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C10H17NO5
reactant | 1-chloro-4-methoxyisoquinoline | 10.3 mmole, 2.0 g | ClC1=NC=C(C2=CC=CC=C12)OC | C10H8ClNO
reactant | t-BuOK | 1 M, 25.9 mL | CC(C)(C)[O-].[K+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | (2S,4R)-1-(tert-butoxycarbonyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid | 2.4 g, 71.4% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=NC=C(C2=CC=CC=C12)OC)C(=O)O | C20H24N2O6
